US07220775B2
N-(4-METHYLPHENYL)-2-(1-PIPERAZINYL)-6-(1-PIPERIDINYL)-4-PYRIMIDINAMINE
A solution of 2-(4-benzyl-1-piperazinyl)-N-(4-methylphenyl)-6-(1-piperidinyl)-4-pyrimidinamine (0.40 g, 0.90 mmol) and ammonium formate (0.28 g, 4.5 mmol) in methanol over 10% palladium/charcoal was stirred at 70° C. for 3 hours. The solution was cooled and passed through celite. The solvent was removed, giving the desired product as a solid (0.21 g, 0.60 mmol, 66%).

reactant | 2-(4-benzyl-1-piperazinyl)-N-(4-methylphenyl)-6-(1-piperidinyl)-4-pyrimidinamine | 0.90 mmol, 0.40 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC=C(C=C1)C)N1CCCCC1 | C27H34N6
reactant | ammonium formate | 4.5 mmol, 0.28 g | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | palladium/charcoal | [Pd] | Pd
product | N-(4-METHYLPHENYL)-2-(1-PIPERAZINYL)-6-(1-PIPERIDINYL)-4-PYRIMIDINAMINE | 0.60 mmol, 0.21 g, 66% | CC1=CC=C(C=C1)NC1=NC(=NC(=C1)N1CCCCC1)N1CCNCC1 | C20H28N6
